US07482366B2
A mixture of 2-oxobutyric acid (11.5 g, 113 mmol), and benzyl alcohol (14.0 mL, 135 mmol) in benzene (100 mL) was heated to reflux under a Dean-Stark water separator. After refluxing for 16 hrs˜2 mL of water had collected in the trap (˜100% of theoretical). The reaction mixture was allowed to cool to ambient temperature, and then concentrated under reduced pressure to afford a pale yellow oil. The crude material was purified by flash chromatography eluting with a gradient from 0% to 15% ethyl acetate/hexane to afford 2-oxo-butyric acid benzyl ester (13.0 g, 60% yield) as a clear colorless oil. 1H-NMR (400 MHz, CDCl3): δ 7.42-7.35 (5H, m), 5.28 (5H, s), 2.87 (2H, q, J=7.2 Hz), 1.12 (3H, t, J=7.2 Hz).

reactant | 2-oxobutyric acid | 113 mmol, 11.5 g | O=C(C(=O)O)CC | C4H6O3
reactant | benzyl alcohol | 135 mmol, 14.0 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | water | O | H2O
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 2-oxo-butyric acid benzyl ester | 13.0 g, 60% yield | C(C1=CC=CC=C1)OC(C(CC)=O)=O | C11H12O3
